US07462620B2
2-(6-(2-(2,3-Difluorophenyl)-ethyl)-2-methyl-4-oxo-2,4-dihydro-pyrazolo-[3,4-d]pyrimidin-7-yl)-acetic acid ethyl ester
A suspension of p-toluenesulfonic acid monohydrate (200 mg) and 2-(4-(3-(2,3-difluorophenyl)-propanoylcarbamoyl)-1-methyl-1H-pyrazol-3-ylamino)-acetic acid ethyl ester (Int B60) (1.2 g, 3.04 mmol) in toluene (100 ml) was refluxed for 3 h. The mixture was cooled and dichloromethane (200 ml) was added. The resulting solution was washed with aqueous sodium bicarbonate solution, brine, dried (MgSO4) and evaporated. The residue was purified by flash chromatography (silica, 5% methanol/dichloromethane) to give the title compound as a cream solid (650 mg, 57%). 1H-NMR (DMSO) δ 1.20 (3H, t), 2.94-3.09 (4H, m), 3.95 (3H, s), 4.18 (2H, q), 5.05 (2H, s), 7.11-7.29 (3H, m), 8.39 (1H, s); MS (APCI+) found (M+1)=377; C18H18F2N4O3 requires 376.

reactant | p-toluenesulfonic acid monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-(4-(3-(2,3-difluorophenyl)-propanoylcarbamoyl)-1-methyl-1H-pyrazol-3-ylamino)-acetic acid ethyl ester | 3.04 mmol, 1.2 g | C(C)OC(CNC1=NN(C=C1C(NC(CCC1=C(C(=CC=C1)F)F)=O)=O)C)=O | C18H20F2N4O4
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-(2-(2,3-Difluorophenyl)-ethyl)-2-methyl-4-oxo-2,4-dihydro-pyrazolo-[3,4-d]pyrimidin-7-yl)-acetic acid ethyl ester | 650 mg, 57% | C(C)OC(CN1C(=NC(C=2C1=NN(C2)C)=O)CCC2=C(C(=CC=C2)F)F)=O | C18H18F2N4O3
